US07863280B2
3-Ethyl-2-methoxy-6-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine (Compound 2)
3-Bromo-5-ethyl-6-methoxy-2-methylpyridine (11.51 g, 50 mmol), 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (8.31 g, 64.95 mmol) and triethylamine (21.84 ml, 164.4 mmol) were dissolved under argon in 100 ml of dioxane and then 1,1′bis(diphenylphosphino)ferrocenepalladium(II) chloride (1.94 g, 2.65 mmol) was added. The mixture was stirred at 90° C. for 18 h, cooled and diluted with ethyl acetate, and filtered through silica gel. The solution was cooled to 0° C., mixed with water and extracted twice with ethyl acetate. The dried and concentrated organic phase was chromatographed on silica gel dried at 45° C. in a vacuum drying oven. A pale beige solid (9.94 g, 72%) was obtained.

reactant | 3-Bromo-5-ethyl-6-methoxy-2-methylpyridine | 50 mmol, 11.51 g | BrC=1C(=NC(=C(C1)CC)OC)C | C9H12BrNO
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 64.95 mmol, 8.31 g | CC1(OBOC1(C)C)C | C6H13BO2
reactant | triethylamine | 164.4 mmol, 21.84 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′bis(diphenylphosphino)ferrocenepalladium(II) chloride | 2.65 mmol, 1.94 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-Ethyl-2-methoxy-6-methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine | 9.94 g, 72% | C(C)C=1C(=NC(=C(C1)B1OC(C(O1)(C)C)(C)C)C)OC | C15H24BNO3
